US04375476
A solution of sodium nitrite (12.7 g) in water (15 ml) was added dropwise to a stirred mixture of (3-amino-2,6-dimethylphenyl)methyl cis-3-(2-chloro-3,3,3-trifluoropropenyl)-2,2-dimethylcyclopropanecarboxylate (9.5 g, 0.025 mole) and concentrated sulfuric acid (20.9 g) in water (120 ml), while maintaining the temperature at 0°. The mixture was stirred at 0° for an additional 0.5 hour, and concentrated sulfuric acid (5 ml) was added. A solution of potassium iodide (34.8 g) in water (25 ml) was added dropwise, followed by copper powder (0.2 g). The reaction mixture was slowly heated to 70°. After heating at 70° for one hour the reaction mixture was allowed to cool and was stirred for 16 hours. The reaction mixture was then extracted with three 300 ml portions of methylene chloride. The combined extracts were washed twice with 500 ml of saturated aqueous sodium bisulfite solution and once with 500 ml of saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered, and the solvent evaporated to give (3-iodo-2,6-dimethylphenyl)methyl cis-3-(2-chloro-3,3,3-trifluoropropenyl)-2,2-dimethylcyclopropanecarboxylate (9.89 g).

reactant | sodium nitrite | 12.7 g | N(=O)[O-].[Na+]
reactant | (3-amino-2,6-dimethylphenyl)methyl cis-3-(2-chloro-3,3,3-trifluoropropenyl)-2,2-dimethylcyclopropanecarboxylate | 0.025 mole, 9.5 g | ClC(=C[C@H]1C([C@H]1C(=O)OCC1=C(C(=CC=C1C)N)C)(C)C)C(F)(F)F | C18H21ClF3NO2
reactant | sulfuric acid | 20.9 g | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | potassium iodide | 34.8 g | [I-].[K+]
solvent | water | 15 ml | O | H2O
solvent | water | 120 ml | O | H2O
solvent | water | 25 ml | O | H2O
catalyst | copper | 0.2 g | [Cu] | Cu
product | (3-iodo-2,6-dimethylphenyl)methyl cis-3-(2-chloro-3,3,3-trifluoropropenyl)-2,2-dimethylcyclopropanecarboxylate | 9.89 g | ClC(=C[C@H]1C([C@H]1C(=O)OCC1=C(C(=CC=C1C)I)C)(C)C)C(F)(F)F | C18H19ClF3IO2
